US06124281
(b) Diethyl 4-[(4-chloro-2-nitrophenyl)hydroxymethyl]-1H-pyrazole-3,5-dicarboxylate
A solution of ethyl 4-(4-chloro-2-nitrophenyl)-4-hydroxy-2-butynoate (5.00 g, 17.7 mmol) and ethyl diazoacetate (2.75 g, 26.5 mmol) in diethyl ether (43.3 mL) was refluxed for 5 days. After cooling to room temperature the reaction mixture was chromatographed eluting with ethyl acetate:hexanes (20:80, 30:70, 40:60, and 50:50). All of the fractions containing the desired compound were combined, concentrated on the rotary evaporator, and the product was recrystallized twice from toluene (total volume 225 mL) to give the title compound as a white solid (4.15 g, 59%, mp 60° C.).

reactant | ethyl 4-(4-chloro-2-nitrophenyl)-4-hydroxy-2-butynoate | 17.7 mmol, 5.00 g | ClC1=CC(=C(C=C1)C(C#CC(=O)OCC)O)[N+](=O)[O-] | C12H10ClNO5
reactant | ethyl diazoacetate | 26.5 mmol, 2.75 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | diethyl ether | 43.3 mL | C(C)OCC | C4H10O
product | Diethyl 4-[(4-chloro-2-nitrophenyl)hydroxymethyl]-1H-pyrazole-3,5-dicarboxylate | 4.15 g, 59% | ClC1=CC(=C(C=C1)C(C=1C(=NNC1C(=O)OCC)C(=O)OCC)O)[N+](=O)[O-] | C16H16ClN3O7
